US07214824B2
2-(4-tert-Butyl-3-fluorophenoxy)-N-{3-methoxy-4-[(methylsulfonyl)amino]benzyl}acetamide
(4-tert-Butyl-3-fluorophenoxy)acetic acid (113 mg, 0.5 mmol), 2-chloro-1,3-dimethylimidazolinium chloride (CDI) (89 mg, 0.55 mmol), triethylamine (0.33 ml) and N-[4-(aminomethyl)-3-methoxyphenyl]methanesulfonamide trifluoroacetic acid (258 mg, 0.75 mmol) were treated in the same procedure described in Example 2(b). The crude residue was applied to a silica gel chromatography column and eluted with a volume mixture of hexane and ethyl acetate (3/1 to 1/1) to furnish 43 mg (20% yield) of the title compound as a white solid.

reactant | (4-tert-Butyl-3-fluorophenoxy)acetic acid | 0.5 mmol, 113 mg | C(C)(C)(C)C1=C(C=C(OCC(=O)O)C=C1)F | C12H15FO3
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.55 mmol, 89 mg | [Cl-].ClC1[NH+](CCN1C)C
reactant | N-[4-(aminomethyl)-3-methoxyphenyl]methanesulfonamide trifluoroacetic acid | 0.75 mmol, 258 mg | FC(C(=O)O)(F)F.NCC1=C(C=C(C=C1)NS(=O)(=O)C)OC
solvent | triethylamine | 0.33 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-tert-Butyl-3-fluorophenoxy)-N-{3-methoxy-4-[(methylsulfonyl)amino]benzyl}acetamide | 43 mg, 20% yield | C(C)(C)(C)C1=C(C=C(OCC(=O)NCC2=CC(=C(C=C2)NS(=O)(=O)C)OC)C=C1)F | C21H27FN2O5S
